US08049015B2
[5-(2-Ethylaminomethyl-4-trifluoromethyl-phenyl)-pyridin-3-yl]-acetic acid methyl ester, dihydrochloride and benzyl isocyanate were reacted as described in Example 2, Step 3, to provide {5-[2-(3-benzyl-1-ethyl-ureidomethyl)-4-trifluoromethyl-phenyl]-pyridin-3-yl}-acetic acid methyl ester. The ester was hydrolyzed to the acid as described in Example 12, Step 4.

reactant | [5-(2-Ethylaminomethyl-4-trifluoromethyl-phenyl)-pyridin-3-yl]-acetic acid methyl ester, dihydrochloride | Cl.Cl.COC(CC=1C=NC=C(C1)C1=C(C=C(C=C1)C(F)(F)F)CNCC)=O
reactant | benzyl isocyanate | C(C1=CC=CC=C1)N=C=O | C8H7NO
product | {5-[2-(3-benzyl-1-ethyl-ureidomethyl)-4-trifluoromethyl-phenyl]-pyridin-3-yl}-acetic acid methyl ester | COC(CC=1C=NC=C(C1)C1=C(C=C(C=C1)C(F)(F)F)CN(C(=O)NCC1=CC=CC=C1)CC)=O | C26H26F3N3O3
